US07335674B2
2.9 g (6.81 mmol; 2.2 equivalents) of bis(trifluoroacetoxy)iodo benzene dissolved in 75 ml of an acetonitrile/water mixture 4:1 is added dropwise to a solution of 0.86 g (3.10 mmol) of 2-(2,5-difluorophenyl)-6-methoxy-1,3-benzoxazol-7-amine in 30 ml of an acetonitrile/water mixture 4:1 at −5° C. After stirring for 30 minutes at −5° C., 70 ml of water is added to the reaction medium and the product formed is extracted twice with 100 ml of dichloromethane. The organic phases are combined and dried over sodium sulphate, then the solvents are evaporated off under reduced pressure. The residue is then purified by chromatography on a silica column (eluent: dichloromethane/methanol mixture 99:1) and 475 mg (yield=53%) of 2-(2,5-difluorophenyl)-6-methoxy-1,3-benzoxazole-4,7-dione is obtained in the form of a yellow powder.

reactant | bis(trifluoroacetoxy)iodo benzene | 6.81 mmol, 2.9 g, 2.2 equivalents | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 2-(2,5-difluorophenyl)-6-methoxy-1,3-benzoxazol-7-amine | 3.10 mmol, 0.86 g | FC1=C(C=C(C=C1)F)C=1OC2=C(N1)C=CC(=C2N)OC | C14H10F2N2O2
reactant | water | 70 ml | O | H2O
solvent | acetonitrile water | 75 ml | C(C)#N.O
solvent | acetonitrile water | 30 ml | C(C)#N.O
product | 2-(2,5-difluorophenyl)-6-methoxy-1,3-benzoxazole-4,7-dione | 475 mg, yield=53% | FC1=C(C=C(C=C1)F)C=1OC2=C(N1)C(C=C(C2=O)OC)=O | C14H7F2NO4
